US07622469B2
3,6-Dihydro-6,6-dimethyl-4-decylamino-2-(4′-methoxyphenethylamino)-1,3,5-triazine hydrochloride
125 ml of methanol, 80 ml of acetone and 0.2 ml of concentrated hydrochloric acid were added to 2.0 g (4.5 mmol) of N1-(4-methoxyphenethyl)-N5-decyl-biguanide dihydrochloride. The mixture was refluxed for 24 hours, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (elution with a mixture of chloroform/methanol/acetic acid (8:0.6:0.6)), and dissolved in 70% aqueous acetonitrile. The solvent was distilled off under reduced pressure, followed by sufficient drying under reduced pressure to obtain 2.1 g of a colorless resinous solid.

reactant | methanol | 125 ml | CO | CH4O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | N1-(4-methoxyphenethyl)-N5-decyl-biguanide dihydrochloride | 4.5 mmol, 2.0 g | Cl.Cl.COC1=CC=C(CCNC(=N)NC(=N)NCCCCCCCCCC)C=C1
reactant | acetone | 80 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-decylamino-2-(4′-methoxyphenethylamino)-1,3,5-triazine hydrochloride | 2.1 g | Cl.CC1(N=C(NC(=N1)NCCC1=CC=C(C=C1)OC)NCCCCCCCCCC)C | InChI=1S/C24H41N5O.ClH/c1-5-6-7-8-9-10-11-12-18-25-22-27-23(29-24(2,3)28-22)26-19-17-20-13-15-21(30-4)16-14-20;/h13-16H,5-12,17-19H2,1-4H3,(H3,25,26,27,28,29);1H
